spice
* Differential Amplifier Circuit
* Transistors
Q1 3 4 5 NPN
? Missing component
* Current Source
I1 3 0 DC 1A
* Resistor
RL 3 0 1k
* Voltage Sources
VCC 4 0 DC 15V
VEE 6 0 DC -15V
Vin 2 0 DC 1V
.model NPN NPN
.END
